US08334236B2
(2) Production of (2-(2-methoxybenzylamino)-3-pyridinyl)methanol
Under a nitrogen gas stream, 2.50 g (65.8 mmol) of lithium aluminum hydride was added to tetrahydrofuran (100 mL) under ice cooling, and a tetrahydrofuran (70 mL) solution of 8.50 g (32.9 mmol) of 2-(2-methoxybenzylamino)nicotinic acid was added dropwise to the above solution. The resulting mixture was stirred for one hour at room temperature. Ethyl acetate was added to the reaction mixture, and then 26.4 mL of a 10% aqueous solution of sodium hydroxide was added thereto. Insoluble materials were filtered off. The filtrate was concentrated, and the residue thus obtained was dissolved in ethyl acetate, dried, filtered, and concentrated. Thus, 8.18 g (yield: quantitative) of the title compound was obtained as a pale yellow viscous product.

reactant | lithium aluminum hydride | 65.8 mmol, 2.50 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
reactant | 2-(2-methoxybenzylamino)nicotinic acid | 32.9 mmol, 8.50 g | COC1=C(CNC2=C(C(=O)O)C=CC=N2)C=CC=C1 | C14H14N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-(2-methoxybenzylamino)-3-pyridinyl)methanol | 8.18 g, yield: quantitative | COC1=C(CNC2=NC=CC=C2CO)C=CC=C1 | C14H16N2O2
